US05360886
A. Preparation of 4-bromobenzyltri-p-tolyl phosphonium bromide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5.04 gms (0.0166 mole) of trip-p-toly phosphine and 25 gms of toluene. The slurry is heated to 30° C. then 4.6 gms (0.0184 mole) of 4-bromobenzyl bromide is added. This reaction mass is heated to 100° C. and maintained at that temperature for 3.5 hours, then cooled to 29° C. and the resulting phosphonium salt collected by filtration. The salt is washed with 12 gms of toluene then vacuum dried. There is obtained 7.5 gms of catalyst which has a melting point of >250° C. and a chemical shift of 22.1 ppm (phosphoric acid reference).

reactant | phosphine | P | H3P
reactant | 4-bromobenzyl bromide | 0.0184 mole, 4.6 gms | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | toluene | 25 gms | C1(=CC=CC=C1)C | C7H8
product | 4-bromobenzyltri-p-tolyl phosphonium bromide | [Br-].BrC1=CC=C(C[P+](C2=CC=C(C=C2)C)(C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)C=C1 | InChI=1S/C28H27BrP.BrH/c1-21-4-14-26(15-5-21)30(27-16-6-22(2)7-17-27,28-18-8-23(3)9-19-28)20-24-10-12-25(29)13-11-24;/h4-19H,20H2,1-3H3;1H/q+1;/p-1
